US07427612B2
4-(3-Fluoro-4-trifluoromethyl-phenyl)-piperazine-1-carboxylic acid tert-butyl ester
To a mixture of sodium tert-butoxide (0.68 g, 6.9 mmol), palladium(II)acetate (11 mg, 0.05 mmol), 2-(di-t-butylphosphino)biphenyl (149 mg, 0.49 mmol), tert-Butyl-1-piperazine carboxylate (1.1 g, 5.9 mmol) and 4-chloro-2-fluorobenzotrifluoride (1 g, 4.94 mmol) was added degazed toluene (10 ml). The mixture was heated to 80° C. overnight. The mixture was cool to room temperature, diluted with ether, filtered and the filtrate was concentrated in vacuo. The residue was chromatographed over silica gel: eluent: Heptane/Ethylacetate 0-10% over 15 minutes to provide the title compound (1.05 g, 61%) as a white solid, MS (m/e): 349.2 (M+H, 100%).

reactant | sodium tert-butoxide | 6.9 mmol, 0.68 g | CC(C)([O-])C.[Na+]
reactant | 2-(di-t-butylphosphino)biphenyl | 0.49 mmol, 149 mg | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
reactant | tert-Butyl-1-piperazine carboxylate | 5.9 mmol, 1.1 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | 4-chloro-2-fluorobenzotrifluoride | 4.94 mmol, 1 g | ClC1=CC(=C(C=C1)C(F)(F)F)F | C7H3ClF4
solvent | ether | CCOCC | C4H10O
catalyst | palladium(II)acetate | 0.05 mmol, 11 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(3-Fluoro-4-trifluoromethyl-phenyl)-piperazine-1-carboxylic acid tert-butyl ester | 1.05 g, 61% | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC(=C(C=C1)C(F)(F)F)F | C16H20F4N2O2
